US04871842
In 210 ml of tetrahydrofuran is dissolved 26.1 g of N-benzyloxycarbonyl-L-alanine, and a solution of 16.4 ml of triethylamine in 20 ml of tetrahydrofuran is added dropwise to the solution at the temperature below -10° C. with stirring. Then, a solution of 11.2 ml of ethyl chlorocarbonate in 20 ml of tetrahydrofuran is added dropwise to the solution. After stirring for 20 minutes, a solution of 15.4 g of L-proline tert-butyl ester in 102 ml of chloroform is added dropwise to the mixture at the temperature below -10° C. over a period of 48 minutes. After the addition is completed, stirring is continued for 1 hour under cooling and for 1.5 hours at room temperature. The reaction solution is poured into 600 ml of ice-water, and the chloroform layer is separated and concentrated under reduced pressure. The residue is dissolved in 304 ml of ethyl acetate, and the solution is washed with 1N aqueous sodium hydroxide, saturated aqueous sodium chloride, 20% aqueous phosphoric acid and saturated aqueous sodium chloride, successively. The ethyl acetate layer is dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 33.8 g of N-(N-benzyloxycarbonyl-L-alanyl)-L-proline tert-butyl ester as an oil. This product is dissolved in 304 ml of methanol containing 8.12 g of oxalic acid, and 10% palladium-carbon (50% wet, 3.6 g) are added to the solution to conduct catalytic reduction at ambient temperature and under atmospheric pressure. The catalyst is filtered off, and the filtrate is concentrated under reduced pressure. 400 ml of ethyl ether is added to the residue, and the crystals which separate out are collected by filtration to give 20.2 g of N-(L-alanyl)-L-proline tert-butyl ester·oxalate as a colorless powder.

reactant | N-benzyloxycarbonyl-L-alanine | 26.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 16.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 11.2 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | L-proline tert-butyl ester | 15.4 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | chloroform | 102 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(N-benzyloxycarbonyl-L-alanyl)-L-proline tert-butyl ester | 33.8 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C20H28N2O5
